US08314091B2
B: N-tert-Butyl-3-((4-(4-(3-isobutylureido)-3-(trifluoromethoxy)benzoyl)piperazin-1-yl)methyl)benzamide
3-((4-(4-Amino-3-(trifluoromethoxy)benzoyl)piperazin-1-yl)methyl)—N-tert-butyl-benzamide (250 mg, 0.525 mmol) and 4-nitrophenol chloroformate (106 mg, 0.525 mmol) were combined and stirred in dichloromethane for 1 hour. Isobutylamine (0.115 g, 1.6 mmol, 0.156 mL) was added and the reaction mixture was stirred for 30 minutes. The reaction mixture was diluted with water and flushed through a hydrophobic frit. The organic phase was concentrated under vacuum and purified by basic reverse phase HPLC to afford the title compound (20 mg), MS (ESI) m/z 578.5 [M+H]+

reactant | 3-((4-(4-Amino-3-(trifluoromethoxy)benzoyl)piperazin-1-yl)methyl)—N-tert-butyl-benzamide | 0.525 mmol, 250 mg | NC1=C(C=C(C(=O)N2CCN(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C=C1)OC(F)(F)F | C24H29F3N4O3
reactant | 4-nitrophenol chloroformate | 0.525 mmol, 106 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Isobutylamine | 1.6 mmol, 0.156 mL, 0.115 g | C(C(C)C)N | C4H11N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-tert-Butyl-3-((4-(4-(3-isobutylureido)-3-(trifluoromethoxy)benzoyl)piperazin-1-yl)methyl)benzamide | 20 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1CCN(CC1)C(C1=CC(=C(C=C1)NC(=O)NCC(C)C)OC(F)(F)F)=O)=O | C29H38F3N5O4
